US04886814
N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine
Prepared by analogy to Example 13 by reaction of 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine with 4-hydroxyphenyl-propan-2-one followed by purification of the base on a silica gel column using chloroform/methanol/ammonia=9:1:1 as eluant.

reactant | 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | OC(CN)C=1N=C(SC1)C | C6H10N2OS
reactant | 4-hydroxyphenyl-propan-2-one | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine | OC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C15H20N2O2S
